US04225335
Preparation of N-(4-Ethyl-1,3-dioxolan-2-ylmethyl)-2-methoxyaniline
2-Methoxyaniline (0.5 mole) and sodium carbonate (30 grams) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. 2-Bromomethyl-4-ethyl-1,3-dioxolane (0.55 mole) is slowly added and the reaction mixture is heated at reflux for a period of about 1 hour. After this time the reaction mixture is filtered and additional sodium carbonate (5 grams) is added to the filtrate. The mixture is then distilled under reduced pressure to yield the desired product N-(4-ethyl-1,3-dioxolan-2-ylmethyl)-2-methoxyaniline.

reactant | 2-Methoxyaniline | 0.5 mole | COC1=C(N)C=CC=C1 | C7H9NO
reactant | sodium carbonate | 30 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-Bromomethyl-4-ethyl-1,3-dioxolane | 0.55 mole | BrCC1OCC(O1)CC | C6H11BrO2
product | N-(4-ethyl-1,3-dioxolan-2-ylmethyl)-2-methoxyaniline | C(C)C1OC(OC1)CNC1=C(C=CC=C1)OC | C13H19NO3
